US08633189B2
A microwave vial was charged with 2-bromo-4-fluoro-1-methoxybenzene (500 mg, 2.44 mmol), 1-cyclopentenylboronic acid (273 mg, 2.44 mmol), and Pd(dppf)Cl2 (199 mg, 0.24 mmol). The solids were dissolved in acetonitrile (7 mL) and 2 M Na2CO3 (5 mL) and the mixture heated under microwave irradiation for 20 min at 110° C. The reaction was diluted with dichloromethane (50 mL) and the layers separated. The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated. Purification by silica gel chromatography (10-30% ethyl acetate/hexane) provided 2-cyclopentenyl-4-fluoro-1-methoxybenzene (231 mg, 49% yield). 1H NMR (400.0 MHz, DMSO-d6) δ 7.01 (dd, J=3.1, 10.0 Hz, 1H), 6.92-6.82 (m, 1H), 6.54 (dd, J=2.4, 6.5 Hz, 1H), 6.54 (s, 1H), 3.87 (s, 3H), 2.78-2.73 (m, 2H), 2.62-2.57 (m, 2H), 2.03-1.95 (m, 2H).

reactant | 2-bromo-4-fluoro-1-methoxybenzene | 2.44 mmol, 500 mg | BrC1=C(C=CC(=C1)F)OC | C7H6BrFO
reactant | 1-cyclopentenylboronic acid | 2.44 mmol, 273 mg | C1(=CCCC1)B(O)O | C5H9BO2
reactant | Na2CO3 | 2 M, 5 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 7 mL | C(C)#N | C2H3N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | Pd(dppf)Cl2 | 0.24 mmol, 199 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-cyclopentenyl-4-fluoro-1-methoxybenzene | 231 mg, 49% yield | C1(=CCCC1)C1=C(C=CC(=C1)F)OC | C12H13FO
